US09238647B2
Step A: tert-butyl 8-(5-methylpyridin-2-yl)-3-phenyl[1,2,4]triazolo[4,3-a]pyridine-6-carboxylate
To a degassed solution of tert-butyl 8-chloro-3-phenyl[1,2,4]triazolo[4,3-a]pyridine-6-carboxylate (0.22 g, 0.67 mmol) and bis(tri-tert-butylphosphine)palladium(0) (17.1 mg, 33 μmol) in dioxane (2 mL) was added 5-methyl-2-pyridylzinc bromide (0.5 M in THF; 4.0 mL, 2.0 mmol). The mixture was heated 75° C. After 181, the mixture was cooled to ambient temperature and concentrated. Saturated aqueous sodium bicarbonate was added and the mixture was extracted with dichloromethane (3×). The combined organic layer was washed with brine, dried over sodium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% hexanes→75% hexanes/ethyl acetate) gave the title compound (69 mg): LC-MS [M+1]=387.1.

reactant | tert-butyl 8-chloro-3-phenyl[1,2,4]triazolo[4,3-a]pyridine-6-carboxylate | 0.67 mmol, 0.22 g | ClC=1C=2N(C=C(C1)C(=O)OC(C)(C)C)C(=NN2)C2=CC=CC=C2 | C17H16ClN3O2
reactant | 5-methyl-2-pyridylzinc bromide | 2.0 mmol, 0.5 M, 4.0 mL | [Br-].CC=1C=CC(=NC1)[Zn+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | bis(tri-tert-butylphosphine)palladium(0) | 33 μmol, 17.1 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | tert-butyl 8-(5-methylpyridin-2-yl)-3-phenyl[1,2,4]triazolo[4,3-a]pyridine-6-carboxylate | 69 mg | CC=1C=CC(=NC1)C=1C=2N(C=C(C1)C(=O)OC(C)(C)C)C(=NN2)C2=CC=CC=C2 | C23H22N4O2
